US04935442
1-Benzyloxy-2-(2-hydroxy-2-methyl-5-hexenyloxy)-4-t-octylbenzene
A mixture of 7.4 g (23.7 mmole) of 2-benzyloxy-5-t-octylphenol, 5.3 g (47.4 mmole) of 1,2-epoxy-2-methyl-5-hexene and 3.27 g (23.7 mmole) of potassium carbonate was heated at 120° C., with stirring, under nitrogen, for 48 hours. The cooled reaction mixture was extracted with ethyl acetate, and the resulting solution was washed with water followed by saturated sodium chloride solution. Evaporation of the washed ethyl acetate solution in vacuo, followed by purification of the residue by column chromatography on silica gel, eluting with 9:1 toluene-ethyl acetate, gave 8.33 g of the title compound as an oil.

reactant | 2-benzyloxy-5-t-octylphenol | 23.7 mmole, 7.4 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C)(C)CC(C)(C)C)O | C21H28O2
reactant | 1,2-epoxy-2-methyl-5-hexene | 47.4 mmole, 5.3 g | O1CC1(CCC=C)C | C7H12O
reactant | potassium carbonate | 23.7 mmole, 3.27 g | C([O-])([O-])=O.[K+].[K+]
product | 1-Benzyloxy-2-(2-hydroxy-2-methyl-5-hexenyloxy)-4-t-octylbenzene | 8.33 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C)(C)CC(C)(C)C)OCC(CCC=C)(C)O | C28H40O3
